US09422292B2
A mixture of 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile (150 mg, 0.37 mmol), triphenylphosphine (194 mg, 0.74 mmol) and diacetoxypalladium (8.3 mg, 0.037 mmol) in mixed solution of ethanol (6 mL) and water (2 mL) was heated at 60° C. for 30 minutes under nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with brine (10 mL*3). The organic phase was separated, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give a crude product, which was purified by column chromatography (silica gel, dichloromethane/methanol=15:1) to afford 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzamide as a white solid (80 mg, 50.8%).

reactant | 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 0.37 mmol, 150 mg | NC1=CC=C(C=N1)C=1C=CC2=C(N(CC(C=3N2C(=NN3)C)C)C3=CC=C(C#N)C=C3)C1 | C24H21N7
reactant | triphenylphosphine | 0.74 mmol, 194 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | water | 2 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | diacetoxypalladium | 0.037 mmol, 8.3 mg | C(C)(=O)O[Pd]OC(C)=O
product | 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzamide | 80 mg, 50.8% | NC1=CC=C(C=N1)C=1C=CC2=C(N(CC(C=3N2C(=NN3)C)C)C3=CC=C(C(=O)N)C=C3)C1 | C24H23N7O
